US04260738
E. Preparation of N-(Cyclohexyl)-N-(2-chloroethyl)-aminomethylphosphonic Acid (Zwitterion Reagents E-1 and E-2)
A total of 101 parts of N-(2-chloroethyl)cyclohexylamine hydrochloride, 41.5 parts phosphorous acid in 101 parts water, 75 parts of 37% aqueous hydrochloric acid, and 104 parts of 37% aqueous formaldehyde were used to prepare Reagent E-2.

reactant | N-(2-chloroethyl)cyclohexylamine hydrochloride | Cl.ClCCNC1CCCCC1
reactant | phosphorous acid | P(O)(O)O | H3O3P
reactant | hydrochloric acid | Cl | ClH
reactant | formaldehyde | C=O | CH2O
solvent | water | O | H2O
product | N-(Cyclohexyl)-N-(2-chloroethyl)-aminomethylphosphonic Acid | C1(CCCCC1)N(CCCl)CP(O)(O)=O | C9H19ClNO3P
